* T:\work\universidad_vault\Universidad\cursos\2026-1\SeriesTransformadas\TrabajoFinal\Proyecto2\ltspice\CircuitoRLC.asc
* Generated by LTspice 26.0.2 for Windows.
V1 N001 0 PULSE(0 100 0 1n 1n 5m 10m)
C1 N003 0 4µ
R1 N002 N001 6
L1 N002 N003 1m Rser=1m
.tran 2.5m
.backanno
.end
